US07598412B2
Benzofuran-2-carboxylic acid [1-(3,4-dimethoxy-phenyl)-cyclohexylmethyl]-amide
C-[1-(3,4-Dimethoxy-phenyl)-cyclohexyl]-methylamine (276 mg, 1.12 mmol) and Benzofuran-2-carbonyl chloride (223 mg, 1.23 mmol) were dissolved in 6 mL of 1,4-dioxane containing triethylamine (312 μL, 2.24 mmol) at 0° C. The reaction mixture was evaporated to dryness, redissolved in dichloromethane, and extracted with 1M hydrochloric acid, 1M sodium hydroxide, and a saturated aqueous solution of sodium chloride. The organic layer dried over sodium sulfate and evaporated to dryness. The crude product was then purified by column chromatography on silica gel using a gradient of 0-20% ethyl acetate in hexanes. The pure fractions were combined and evaporated to dryness to yield a white solid (195 mg, 0.496 mmol, 44.2%). ESI-MS m/z calc. 393.2, found 394.2 (M+1)+. Retention time of 2.96 minutes. 1H NMR (400 MHz, CD3CN) δ 1.45-2.20 (m, 10H), 3.48 (d, J=6.5 Hz, 2H), 3.80 (s, 3H), 3.83 (s, 3H), 6.68 (s, 1H), 6.92-7.02 (m, 3H), 7.30-7.38 (m, 2H), 7.42-7.49 (m, 1H), 7.51-7.55 (m, 1H), 7.72 (d, J=7.8 Hz, 1H)

reactant | C-[1-(3,4-Dimethoxy-phenyl)-cyclohexyl]-methylamine | 1.12 mmol, 276 mg | COC=1C=C(C=CC1OC)C1(CCCCC1)CN | C15H23NO2
reactant | Benzofuran-2-carbonyl chloride | 1.23 mmol, 223 mg | O1C(=CC2=C1C=CC=C2)C(=O)Cl | C9H5ClO2
reactant | triethylamine | 2.24 mmol, 312 μL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | Benzofuran-2-carboxylic acid [1-(3,4-dimethoxy-phenyl)-cyclohexylmethyl]-amide | 0.496 mmol, 195 mg, 44.2% | COC=1C=C(C=CC1OC)C1(CCCCC1)CNC(=O)C=1OC2=C(C1)C=CC=C2 | C24H27NO4
